US06177440B1
A solution of the 9-[(3-fluorophenyl)methyl]-5-carbomethoxy-2-methyl-1,2-dihydrocarbazol-4(3H)-one (1.37 g, 3.75 mM) and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (0.94 g, 4.13 mM) in 38 mL of toluene was stirred between 80-90° C. for 3 hours. The mixture was purified by column chromatography on silica gel (elution with methylene chloride) to afford 0.33 g (24%) of 9-[(3-fluorophenyl)methyl]-2-methyl-4-hydroxy-5-carbomethoxy carbazole. 1H NMR (CDCl3) δ 10.45 (s, 1H), 8.0 (d, J=8 Hz, 1H), 7.55 (d, J=8 Hz, 1H), 7.4 (dd, J=8 and 8 Hz, 1H), 7.3 (m, 2H), 6.95 (m, 1H), 6.85 (d, J=8 Hz, 1H), 6.75 (m, 1H), 6.65 (s, 1H), 5.5 (s, 2H), 4.1 (s, 3H), 2.45 (s, 3H). MS (ES) m/e 332, 364.

reactant | 9-[(3-fluorophenyl)methyl]-5-carbomethoxy-2-methyl-1,2-dihydrocarbazol-4(3H)-one | 3.75 mM, 1.37 g | FC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(CC(CC12)C)=O)C(=O)OC | C22H20FNO3
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 4.13 mM, 0.94 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 38 mL | C1(=CC=CC=C1)C | C7H8
product | 9-[(3-fluorophenyl)methyl]-2-methyl-4-hydroxy-5-carbomethoxy carbazole | 0.33 g, 24% | FC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC(=CC12)C)O)C(=O)OC | C22H18FNO3
